US20010026901A1
11 g of 2-hydroxymethyl-5-norboronene were dissolved in 21 ml of pyridine, and 11 ml of acetic anhydride were added dropwise to the mixture, followed by stirring at room temperature for 12 hours. The resultant reaction mixture was poured into 100 ml of water, and the organic layer was then extracted with 100 ml of ethyl acetate. Afterward, the thus extracted organic layer was washed with 0.5N hydrochloric acid, a 3% aqueous sodium carbonate solution and saturated saline in this order. This organic layer was dried over magnesium sulfate, and ethyl acetate was distilled off under reduced pressure, thereby obtaining 13 g of 2-acetoxy-5-norbornene. Next, 13 g of 2-acetoxy-5-norbornene were added dropwise to a mixture of 50 ml of 90% formic acid and 13 ml of 30% aqueous hydrogen peroxide under ice-cooling, followed by stirring at room temperature for 12 hours. Formic acid was distilled off under reduced pressure, and 30 ml of methanol, 13 g of sodium hydroxide and 25 ml of water were added to the resultant residue and reaction was then carried out at 45 to 50° C. for 1 hour. After the reaction solution was allowed to cool, the resultant organic layer was extracted with 100 ml of ethyl acetate, washed with saturated brine, and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 5 g of 2,3-dihydroxy-5(6)-hydroxymethylnorbornane.

reactant | acetic anhydride | 11 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 100 ml | O | H2O
reactant | pyridine | 21 ml | N1=CC=CC=C1 | C5H5N
product | 2-acetoxy-5-norbornene | 13 g | C(C)(=O)OC1C2C=CC(C1)C2 | C9H12O2
